US04207320
3-(1-Azetidinyl)-10-propylimidazo[1,2-a:3,4-a']diquinolin-15-ium Iodide.
3-(1-Azetidinyl)-10-ethylimidazo[1,2-a:3,4-a']diquinolin-15-ium Iodide; m.p. 246°-256° C., from methanol.

reactant | 3-(1-Azetidinyl)-10-ethylimidazo[1,2-a:3,4-a']diquinolin-15-ium Iodide | [I-].N1(CCC1)C1=CC=2C=CC3=[N+](C2C=C1)C=C1N3C=3C=CC(=CC3C=C1)CC
reactant | methanol | CO | CH4O
product | 3-(1-Azetidinyl)-10-propylimidazo[1,2-a:3,4-a']diquinolin-15-ium Iodide | [I-].N1(CCC1)C1=CC=2C=CC3=[N+](C2C=C1)C=C1N3C=3C=CC(=CC3C=C1)CCC | InChI=1S/C25H24N3.HI/c1-2-4-18-5-10-24-19(15-18)6-8-22-17-27-23-11-9-21(26-13-3-14-26)16-20(23)7-12-25(27)28(22)24;/h5-12,15-17H,2-4,13-14H2,1H3;1H/q+1;/p-1
